US06924400B2
(d) 5-[1,3]Dioxolan-2-yl-2-methylphenylboronic acid
In a manner similar to that of Example 2(k), by reacting 11.1 g (46 mmol) of 2-(3-bromo-4-methylphenyl)[1,3]dioxolane with 12.3 ml (55 mmol) of triisopropyl borate, 6 g (88%) of product are obtained in the form of an oil.

reactant | 2-(3-bromo-4-methylphenyl)[1,3]dioxolane | 46 mmol, 11.1 g | BrC=1C=C(C=CC1C)C1OCCO1 | C10H11BrO2
reactant | triisopropyl borate | 55 mmol, 12.3 ml | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
product | 5-[1,3]Dioxolan-2-yl-2-methylphenylboronic acid | O1C(OCC1)C=1C=CC(=C(C1)B(O)O)C | C10H13BO4
